US09290451B2
a) 6-((Tetrahydrofuran-2-yl)methoxy)-5-(trifluoromethyl)picolinic acid
The title compound was prepared in analogy to the procedure described in Example 230 b), using 6-chloro-5-(trifluoromethyl)picolinic acid and (tetrahydrofuran-2-yl)methanol (CAN 97-99-4) as starting materials. MS: 290.0 [M−H]−.

reactant | 6-chloro-5-(trifluoromethyl)picolinic acid | ClC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C7H3ClF3NO2
reactant | (tetrahydrofuran-2-yl)methanol | O1C(CCC1)CO | C5H10O2
product | 6-((Tetrahydrofuran-2-yl)methoxy)-5-(trifluoromethyl)picolinic acid | O1C(CCC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C12H12F3NO4
